US06506747B1
To a stirred mixture of 5-iodo-2-naphthol (300 mg, 1.11 mmol) in EtOH (7 mL) was added NaOC2H5 (90.7 mg, 1.2 equiv) and, after 10 min, 4-bromobutyronitrile (0.22 mL, 2.0 equiv). The mixture was then heated at reflux for 2 h. It was diluted with water, extracted with dichloromethane, washed with brine and dried (Na2SO4). Concentration and chromatography on silica gel (hexane/ethyl acetate=4:1) gave 1-(cyanopropyloxy)-5-iodonaphthalene (77 mg, 20.6%).

reactant | 5-iodo-2-naphthol | 1.11 mmol, 300 mg | IC1=C2C=CC(=CC2=CC=C1)O | C10H7IO
reactant | NaOC2H5 | 90.7 mg, 1.2 equiv | CC[O-].[Na+]
reactant | 4-bromobutyronitrile | 0.22 mL, 2.0 equiv | BrCCCC#N | C4H6BrN
solvent | EtOH | 7 mL | CCO | C2H6O
solvent | water | O | H2O
product | 1-(cyanopropyloxy)-5-iodonaphthalene | 77 mg, 20.6% | C(#N)CCCOC1=CC=CC2=C(C=CC=C12)I | C14H12INO
